US07452992B2
To a 0° C. solution of the above 2-[3-(2,2-dimethylpropanoyl)-6-phenyl-1,3-oxazinan-6-yl]ethanol, dimethyl sulfoxide (10 mL, 141 mmol) and diisopropylethylamine (10.5 mL, 60 mmol) in 60 mL CH2Cl2 was added SO3.pyr (9.0 g, 57 mmol) in one portion. The reaction mixture was stirred at 0° C. for 2 h, quenched with saturated aqueous NaHCO3, extracted with CHCl3, dried (Na2SO4) and chromatographed (2:1 Hex:EtOAc) to provide [3-(2,2-dimethylpropanoyl)-6-phenyl-1,3-oxazinan-6-yl]acetaldehyde (2.84 g, 98%) as an oil. 1H NMR (400 MHz, CDCl3): δ 9.64 (t, 1H, J=2.7 Hz), 7.45-7.41 (m, 4H), 7.33 (m, 1H), 5.49 (dd, 1H, J=11.1, 1.9 Hz), 4.74 (d, 1H, J=11.5 Hz), 4.27 (m, 1H), 3.08 (m, 1H), 2.72 (ABqd, 2H, J=15.3, 2.8 Hz), 2.43 (ddd, 1H, J=14.2, 4.1, 3.0 Hz), 2.11 (ddd, 1H, J=14.2; 11.4, 4.3 Hz), 1.28 (s, 9H). ESI-MS 312 (M+Na).

reactant | 2-[3-(2,2-dimethylpropanoyl)-6-phenyl-1,3-oxazinan-6-yl]ethanol | CC(C(=O)N1COC(CC1)(C1=CC=CC=C1)CCO)(C)C | C17H25NO3
reactant | dimethyl sulfoxide | 141 mmol, 10 mL | CS(=O)C | C2H6OS
reactant | diisopropylethylamine | 60 mmol, 10.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | [3-(2,2-dimethylpropanoyl)-6-phenyl-1,3-oxazinan-6-yl]acetaldehyde | 2.84 g, 98% | CC(C(=O)N1COC(CC1)(C1=CC=CC=C1)CC=O)(C)C | C17H23NO3
